US07592365B2
0.068 cm3 (0.466 mmol) of 2-fluoro-5-trifluoromethylphenyl isocyanate is added at a temperature in the region of 23° C. and under an argon atmosphere to 0.11 g (0.424 mmol) of 2-acetylamino-4-(6-aminopyridin-3-yl)-1H-pyrrole-3-carboxamide in solution in 20 cm3 of tetrahydrofuran. After stirring for 1 hour at a temperature in the region of 20° C., 0.059 cm3 (0.424 mmol) of triethylamine is added to the medium. The reaction mixture is then stirred for 18 hours at this temperature and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is purified by flash chromatography [eluent: dichloromethane/methanol (95/5 by volume) and pure ethyl acetate gradient]. After concentrating the fractions under reduced pressure, 0.013 g of 2-acetylamino-4-{6-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]pyridin-3-yl}-1H-pyrrole-3-carboxamide is obtained in the form of a white solid. ES+: m/z=466 (MH+).

reactant | 2-fluoro-5-trifluoromethylphenyl isocyanate | 0.466 mmol, 0.068 cm3 | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
reactant | 2-acetylamino-4-(6-aminopyridin-3-yl)-1H-pyrrole-3-carboxamide | 0.424 mmol, 0.11 g | C(C)(=O)NC=1NC=C(C1C(=O)N)C=1C=NC(=CC1)N | C12H13N5O2
reactant | triethylamine | 0.424 mmol, 0.059 cm3 | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | 2-acetylamino-4-{6-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]pyridin-3-yl}-1H-pyrrole-3-carboxamide | 0.013 g | C(C)(=O)NC=1NC=C(C1C(=O)N)C=1C=NC(=CC1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)F | C20H16F4N6O3
